US09447106B2
To a solution of 7-acryloyl-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide (6 mg, 0.014 mmol) in 5 mL of MeOH at RT was added NaOMe (15 mg, 0.28 mmol) followed by dimethylamine hydrochloride (12 mg, 014 mmol), then the mixture was stirred at 50° C. overnight. After cooling down to RT, the mixture was concentrated. The residue was purified by pre-HPLC eluting from 0% to 60% CH3CN in H2O. Fractions containing the desired product were combined and lyophilized overnight to give 2.5 mg (35%) of 6-(3-(dimethylamino)propanoyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 11.84-11.82 (m, 1H), 9.55 (s, 1H), 7.69-7.66 (m, 2H), 7.44 (d, J=7.6 Hz, 1H), 7.42 (d, J=7.6 Hz, 1H), 7.18 (t, J=7.6 Hz, 1H), 7.10-7.04 (m, 4H), 4.75-4.72 (m, 2H), 3.87-3.82 (m, 2H), 3.02-3.00 (m, 2H), 2.84-2.78 (m, 2H), 2.77 (s, 6H), 2.71-2.68 (m, 2H). MS (ESI) m/e [M+1]+ 472.9.

reactant | 7-acryloyl-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide | 0.014 mmol, 6 mg | C(C=C)(=O)N1CC2=C(CC1)NC=1N2N=C(C1C(=O)N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C24H21N5O3
reactant | NaOMe | 0.28 mmol, 15 mg | C[O-].[Na+]
reactant | dimethylamine hydrochloride | 12 mg | Cl.CNC
solvent | MeOH | 5 mL | CO | CH4O
product | 6-(3-(dimethylamino)propanoyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[1′,5′:1,2]imidazo[4,5-c]pyridine-3-carboxamide | 2.5 mg, 35% | CN(CCC(=O)N1CC2=C(CC1)N1C(N2)=C(C(=N1)C1=CC=C(C=C1)OC1=CC=CC=C1)C(=O)N)C | C26H28N6O3
